US06084105
Preparation of 2-(2,6-dichloro-4-trifluoromethylphenylhydrazono)succinonitrile (Reaction scheme Sc 3)
Sodium nitrite (3.9 g) was added to stirred concentrated sulfuric acid (12.8 ml) and heated at 80° C. until dissolved. Acetic acid (25 ml) was added at 30° C. A mixture of 2,6-dichloro-4-trifluoromethylphenylaniline (10.0 g) and acetic acid (25 ml) was added over 10 minutes at 20° C. maintaining below 25° C. The mixture was heated at 55° C. for 50 minutes, and further sodium nitrite (0.65 g) and acetic acid (10 ml) added, and after 20 minutes heated to 70° C. and sulfuric acid (2.8 ml) added. After 20 minutes the cooled mixture was added to a mixture of 2-hydroxymethylenesuccinonitrile potassium salt (7.6 g) and sodium acetate (35.6 g) in water and acetic acid (70 ml) at 10° C. After warming to 20° C. during 1 hour, dichloromethane was added followed by ammonium hydroxide solution (210 ml) to give a pH of 8. The organic phase was separated, washed (water and brine), dried (sodium sulfate) and evaporated to give the title compound as a red-brown solid (18.1 g). Recrystallization from hexane/t-butyl methyl ether) gave the pure title compound (6.85 g), m.p. 80-82° C., NMR 3.6 (s, 2H), 7.66 (s, 2H), 9.03 (s, 1H exchangeable with D2O).

reactant | Sodium nitrite | 3.9 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 12.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,6-dichloro-4-trifluoromethylphenylaniline | 10.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NC1=CC=CC=C1 | C13H8Cl2F3N
reactant | sodium nitrite | 0.65 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 2.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-hydroxymethylenesuccinonitrile potassium salt | 7.6 g | [K].OC=C(C#N)CC#N
reactant | sodium acetate | 35.6 g | C(C)(=O)[O-].[Na+]
reactant | ammonium hydroxide | 210 ml | [OH-].[NH4+]
solvent | water | O | H2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | Acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2,6-dichloro-4-trifluoromethylphenylhydrazono)succinonitrile | 18.1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C#N)CC#N | C11H5Cl2F3N4
